US05616610
d) (R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran
(R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-5- hydroxy-3,4-dihydro-2H-1-benzopyran was dissolved in diethyl ether (100 mL). Triethylamine (3 g, 30 mmol) was added and the mixture was cooled to -20 ° C. Trifluoromethanesulfonic anhydride (4.2 g, 15 mmol), dissolved in diethyl ether (20 mL), was added dropwise (5 min). After stirring for 30 min, the dark-brownish mixture was poured into water. The organic layer was separated. Flash chromatography (ethyl acetate as the eluent) gave 3.7 g of the title compound as a yellow oil in a 69% yield. GC/MS (70 eV) M=425 (10%).

reactant | (R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-5- hydroxy-3,4-dihydro-2H-1-benzopyran | C1(CCCC1)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)O | C17H24FNO2
reactant | Triethylamine | 30 mmol, 3 g | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 15 mmol, 4.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 3.7 g, 69% yield | C1(CCCC1)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C18H23F4NO4S
